US05013749
(b) (E)-3-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal
From (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenol (0.301 g) and manganese (IV) oxide (2.101 g) by the process as described for the preparation of Intermediate (9 a) to afford a yellow solid which was purified by FCC eluting with System A (2:3) to afford the title compound (0.225 g) as a white solid, λmax (EtOH) 260.0 (20,050) and 289.2 (inf) nm (ε10,890).

reactant | (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenol | 0.301 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/CO)C(C)C | C21H20F2N2O
catalyst | manganese (IV) oxide | 2.101 g | [O-2].[Mn+4].[O-2]
product | (E)-3-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenal | 0.225 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C=O)C(C)C | C21H18F2N2O
